US04030908
A 250 ml hydrogenation flask was charged with 50g (0.3 mole ) of 3-(4-methyl-3-cyclohexenyl)butyraldehyde, 15g (0.33 mole) of dimethylamine, 0.5 of platinum oxide and 80 ml of 95% ethanol. Cooling was required to control the initial exotherm. The reaction mixture was then shaken at ambient temperature under 20-40 lbs. of hydrogen until 0.3 mole of hydrogen was consumed. The mixture ws filtered and concentrated, and the residue was distilled yielding 38.4g of pure N,N-dimethyl-N-[3-(4-methyl-3-cyclohexenyl)butyl]amine: bp 95-101 (0.4mm); ir (τ max. film) 3.5 (s), 6.9 (s), 7.3 (s), 12.5 (m) micron; nmr (8 CDCl3), 5.40 (m, 1H), 2.28 (s, 8H), 2.0 to 0.8 (m, 16H) ppm; ms (molecular ion) 195.

reactant | 3-(4-methyl-3-cyclohexenyl)butyraldehyde | CC1=CCC(CC1)C(CC=O)C | C11H18O
reactant | dimethylamine | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.3 mole | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N,N-dimethyl-N-[3-(4-methyl-3-cyclohexenyl)butyl]amine | 38.4g | CN(CCC(C)C1CC=C(CC1)C)C | C13H25N
